US04767766
Step A: Preparation of 4-(4-methoxybenzylthio)-nicotinic acid
A stirred and ice-cooled mixture of 788 mg (0.005 mole) 4-chloronicotinic acid [prepared by the process set forth in W. C. J. Ross, J. Chem. Soc.(C), 1816 (1966)]and 771 mg (0.005 mole) of 4-methoxybenzylmercaptan in 6 mL of dry N,N-dimethylformamide was treated with 480 mg (0.012 mole) of 60% sodium hydride dispersion. The reaction was stirred at room temperature for 4 hours during which a thick solid formed, which was taken up in 75 mL of ice water. After extraction with 25 mL of hexane, the aqueous layer was acidified with 2.5N hydrochloric acid to precipitate 4-(4-methoxybenzylthio)-nicotinic acid; yield 1.2 g (89% of theory), m.p. 230° C.

reactant | 4-chloronicotinic acid | 0.005 mole, 788 mg | ClC1=CC=NC=C1C(=O)O | C6H4ClNO2
reactant | 4-methoxybenzylmercaptan | COC1=CC=C(CS)C=C1 | C8H10OS
reactant | sodium hydride | 0.012 mole, 480 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 4-(4-methoxybenzylthio)-nicotinic acid | COC1=CC=C(CSC2=CC=NC=C2C(=O)O)C=C1 | C14H13NO3S
